US04172093
(c) 5'-amino-spiro(cyclopentane-1,1'-indan)-3'-one
A solution of 5'-nitro-spiro(cyclopentane-1,1'-indan)-3'-one (23.1 g; 0.1 mole) in methanol (250 ml) is hydrogenated in a shaking autoclave at about 4 atg with a Raney-nickel catalyst at 40°-60° C. The mixture is chilled, the catalyst filtered off and washed with methanol, after which the filtrate is evaporated to dryness. A light yellow powder is obtained (19.5 g; yield 97%). Said powder is dissolved in 2 N hydrochloric acid and extracted with ether, and then the aqueous phase is neutralized with 2 N sodium hydroxid solution. The precipitate is filtered off, washed with water and dried, and 18.8 g of a yellow-white crystal powder is obtained. A sample is recrystallized twice from benzene and then melts at 125° C.

reactant | 5'-nitro-spiro(cyclopentane-1,1'-indan)-3'-one | 0.1 mole, 23.1 g | [N+](=O)([O-])C=1C=C2C(CC3(C2=CC1)CCCC3)=O | C13H13NO3
solvent | methanol | 250 ml | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
solvent | hydrochloric acid | 2 N | Cl | ClH
product | 5'-amino-spiro(cyclopentane-1,1'-indan)-3'-one | 18.8 g, yield 97% | NC=1C=C2C(CC3(C2=CC1)CCCC3)=O | C13H15NO
